US05324747
A mixture of 1.0 g (1.92 mmol) of N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine, 2.6 ml of N,N-diisopropylethylamine and a solution of N,N-bis(2-hydroxyethyl)-3-chloroacetamide [prepared from the reaction of 2.1 g (20 mmol) of diethanolamine, 1.6 ml (20 mmol) of chloroacetyl chloride and 3.1 ml (22 mmol) of triethylamine in 25 ml of DMF] was stirred at room temperature for 17 hours. Sodium iodide (3.0 g, 20 mmol) was added and the reaction mixture was stired and heated at 60° under argon for 25 hours. The mixture was concentrated at reduced pressure and NaHCO3 solution was added to the residue. The product was extracted with ethyl acetate and the extract was washed with water, dried and concentrated to an oil which was crystallized from methylene chloride-ether to give 0.455 g (29% yield, mp 104°-107°) of N-[3,5-bis(decyloxy)phenyl]-N-[[bis(2-hydroxyethyl)amino]carbonyl]methoxy]-2-oxoethyl]glycine [[bis(2-hydroxyethyl)amino]carbonyl]methyl ester.

reactant | N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine | 1.92 mmol, 1.0 g | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC | C30H51NO6
reactant | N,N-diisopropylethylamine | 2.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethanolamine | 20 mmol, 2.1 g | N(CCO)CCO | C4H11NO2
reactant | chloroacetyl chloride | 20 mmol, 1.6 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 22 mmol, 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium iodide | 20 mmol, 3.0 g | [I-].[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | glycine [[bis(2-hydroxyethyl)amino]carbonyl]methyl ester | OCCN(C(=O)COC(CN)=O)CCO | C8H16N2O5
